US07138399B2
H3. 2-Chloro-5-(4-bromphenyl)-3-nitropyridine
A mixture of 10.2 g of 5-(4-bromphenyl)-2-hydroxy-3-nitropyridine (starting material H4) and 40 ml of phosphorous oxychloride is heated under reflux to 120° C. for 3 hours. After cooling the mixture is carefully added to ice/water, then neutralized with sodium hydrogencarbonate and extracted three times with ethyl acetate. The combined organic phases are evaporated to dryness and the residue is chromatographed on a silica gel column (ethyl acetate/petroleum ether 1:12). Concentration of the chromatographically pure fractions gives 1.52 g of the title compound as yellow crystals of m.p. 116–117° C. The mass spectrum shows the molecular peak M+ at 314 Da.

reactant | 5-(4-bromphenyl)-2-hydroxy-3-nitropyridine | 10.2 g | BrC1=CC=C(C=C1)C=1C=C(C(=NC1)O)[N+](=O)[O-] | C11H7BrN2O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | phosphorous oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-(4-bromphenyl)-3-nitropyridine | 1.52 g | ClC1=NC=C(C=C1[N+](=O)[O-])C1=CC=C(C=C1)Br | C11H6BrClN2O2
